US06008229
A mixture of 8-hydroxy-2-methylimidazo[1,2-a]pyridine (10 g), acetic anhydride (10.3 g) and pyridine (10.7 g) in anhydrous dichloromethane (100 ml) was stirred for 1 hour at ambient temperature and allowed to stand overnight. The 30 mixture was washed with water, and the organic layer was separated. The aqueous layer was neutralized with sodium bicarbonate and extracted with chloroform. The combined organic layers were washed with saturated sodium bicarbonate solution, dried over magnesium sulfate and evaporated in vacuo to give 8-acetoxy-2-methylimidazo[1,2-a]pyridine (13.1 g) as oil.

reactant | 8-hydroxy-2-methylimidazo[1,2-a]pyridine | 10 g | OC=1C=2N(C=CC1)C=C(N2)C | C8H8N2O
reactant | acetic anhydride | 10.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 10.7 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 8-acetoxy-2-methylimidazo[1,2-a]pyridine | 13.1 g | C(C)(=O)OC=1C=2N(C=CC1)C=C(N2)C | C10H10N2O2
